US05631397
Synthesis of (2S)-2-(N,N-dibenzylamino)-5-ethoxycarbonyl-amino-1,6-diphenyl-4-hexen-3-one
A solution of 5 g of (2S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-4-hexene-3-one in toluene (100 ml) was chilled with ice water. To the solution, 5 ml of pyridine and 5 ml of ethyl chloroformate were gradually added. The reaction mixture was stirred at 70° C. for 12 hours, and then chilled with ice water. 5 ml of water was added to the reaction mixture, and the mixture was held at the same temperature for 1 hour. The reaction mixture was then washed with 50 ml of water and 50 ml of a dilute solution of potassium hydrogensulfate, and further with water, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using n-hexane-ethyl acetate (10:1) as an eluent, thereby obtaining 1.65 g (28.5%) of the title compound as pale yellow powder from the eluate.

reactant | (2S)-2-(N,N-dibenzylamino)-5-amino-1,6-diphenyl-4-hexene-3-one | 5 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)C(C=C(CC1=CC=CC=C1)N)=O | C32H32N2O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 5 ml | ClC(=O)OCC | C3H5ClO2
reactant | water | 5 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-2-(N,N-dibenzylamino)-5-ethoxycarbonyl-amino-1,6-diphenyl-4-hexen-3-one | 1.65 g, 28.5% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](C(C1=CC=CC=C1)N)C(C=C(CC1=CC=CC=C1)C(=O)OCC)=O | C35H36N2O3
